US05763489
To a solution of 2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethanol (0.20 g) and triphenylphosphine (0.42 g) in dichloromethane (10 ml) was added tetrabromomethane (0.90 g) at 5° C. The solution was stirred at 5° C. for 1.5 hours and evaporated in vacuo. To the residue, ethyl acetate was added and the insoluble material was filtered off. The ethyl acetate solution was evaporated in vacuo. The residue was chromatographed (n-hexane) over silica gel to afford 2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl bromide (0.18 g) as a colorless oil.

reactant | 2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethanol | 0.20 g | COC1=C2CCCC(C2=CC=C1)CCO | C13H18O2
reactant | triphenylphosphine | 0.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | 0.90 g | BrC(Br)(Br)Br | CBr4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl bromide | 0.18 g | COC1=C2CCCC(C2=CC=C1)CCBr | C13H17BrO
